datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCC1C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C>>CCCCCCC1C(O[C:20](=[O:10])N1CC)C.[O-:21]CCCCCC 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20]([O-:10])(O[H])[Cl:21])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])O[H])C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H:20][CH:21]1CC[O+:23]=[CH:22]1.[F-:10]>>[H:20][F:10].C1C[O:23][CH:22]=[CH:21]1 10=20;20,21=21,22;22,23=23"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C([H])C(O)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(O)C([H])C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C)[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C)[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[H][S+:10](C(CC)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C([H])[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"C[O:10][H].CC[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C1=CC=CC=C1)[H]>>CN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C)([O-:10])[Cl:21])[H])[H]>>CCC1C(C(O[C:20](=[O:10])N1C)[H])[H].[Cl-:21] 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C(C)C([H])[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O]C(C)C([H])[O]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC)[H])CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC)[H])CCCCCC 21=20;20,10=10"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CC)[O-:10])[H]>>CN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CC)[H] 10=20;20,21=21"
"[O-:21][C:20]1(C)C(O)C(O)C([H])C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C([H])C(O)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])[H])[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])[H])CCCCCC 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CCCCCC 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C([H])[NH][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CC)CC)CCCCCC.[O-:21]CCCCCC>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC)CCCCCC 21=20;20,10=10"
